US04292321
2-(1-Piperazinyl)quinoxaline is prepared from 2-chloroquinoxaline by reaction with piperazine in a manner similar to the preparation of 2-(1-piperazinyl)quinoxalines described in British Pat. No. 1,440,722, issued June 23, 1976 and assigned to Merck & Co. The preparation of 2-chloroquinoxaline is described at Gowenlock et al., J. Chem Soc. 1945: 622.

reactant | 2-chloroquinoxaline | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(1-Piperazinyl)quinoxaline | N1(CCNCC1)C1=NC2=CC=CC=C2N=C1 | C12H14N4
